US04871852
In 20 ml of 80% sulfuric acid was dissolved 5.8 g of 2,4,5-trifluorobenzonitrile and the mixture was heated under reflux for 30 minutes. After cooling, the reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was dried over sodium sulfate and the solvent was removed to yield 5.32 g of 2,4,5-trifluorobenzamide.

reactant | 2,4,5-trifluorobenzonitrile | 5.8 g | FC1=C(C#N)C=C(C(=C1)F)F | C7H2F3N
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2,4,5-trifluorobenzamide | 5.32 g | FC1=C(C(=O)N)C=C(C(=C1)F)F | C7H4F3NO
